US06630128B1
3,5-Dihexyloxy-benzaldehyde
The title compound was prepared according to the method described in Example 9 above from 3,5-dihydroxy-benzaldehyde and 1-bromohexane.

reactant | 3,5-dihydroxy-benzaldehyde | OC=1C=C(C=O)C=C(C1)O | C7H6O3
reactant | 1-bromohexane | BrCCCCCC | C6H13Br
product | 3,5-Dihexyloxy-benzaldehyde | C(CCCCC)OC=1C=C(C=O)C=C(C1)OCCCCCC | C19H30O3
